Regression test to show proper transient RC circuit
********************************************************************************
* Tier No.:  1
* Directory/Circuit Name:  CAPACITOR/capacitor.cir
* 
* Todd Coffey (circuit copied from Bug 128,280,908, Tom Russo)
*
* This is a simple RC circuit used to test the method of manufactured solution (MMS) for order verification (OV) of the time integrator (TI).
* Using the Kirchhoff voltage low, the differential equation representing this simple network is 
*           (V(Source)-V(1))/R=C*(dV(1)/dt)   (1) and 
*            V(Source)=V(1)+RC*(dV(1)/dt)     (2)
*  We can manufacture analytic solution for V(1), substitute it in (2) and find  V(Source). 
*  V(Source)is simulated in Xyce using B source and the results for V(1)(voltage drop across the capacitor) produced by Xyce 
*  and a scrip that calculate V(1) analytically are compared. 
*  To verify the order of accuracy of the time integrator, the following steps need to be executed:
*  For a given order x :
*    1.	Start with relatively large time step delta t.
*    2.	Each sub-sequential value for  delta t is halved.
*    3.	For each delta t, compute the relative L2 norm as follows:
*   error =SQRT(1/N*sum_{i=1}^{N}((V1xyce(i)-V1gs(i))/V1gs(i))^2
*    4.	Consider at minimum   six values for delta t .
*    5.	Once the L2 error is calculated for each delta t, the errors calculations are fitted to power low C*(delta t)^x 
* via least squares, where C is to be determined by the fit and x is the order of  the time integrator.
*
* The provided perl script will generate the correct analytic solution for this
* circuit.  Simply run as "./rc.cir.prn.gs.pl" and it will take the rc.cir.prn
* file and generate an rc.cir.prn.gs file which uses the same time points as in
* rc.cir.prn.
*
* The gold standard was generated from 
* > ./rc.cir.prn.gs.pl
* > cp rc.cir.prn.gs ../../OutputData/CAPACITOR/rc.cir.prn
*
* These high relative and absolute tolerances are required to match the
* analytic solution.
*
********************************************************************************
.param C=1uF R=1K A=10 freq=10K S={2*pi*freq} B=10

.FUNC soln(t) {A*cos(S*t)}
.FUNC source(t) {A*cos(S*t)-A*S*R*C*sin(S*t)}

*.FUNC soln(t) {B+A*cos(S*t)}
*.FUNC source(t) {B+A*cos(S*t)-A*S*R*C*sin(S*t)}

*.FUNC soln(t) {A*t*t}
*.FUNC source(t) {A*t*t+2*A*R*C*t}

*.FUNC soln(t) {A*sin(S*t)}
*.FUNC source(t) {A*sin(S*t)+A*S*R*C*cos(S*t)}

*.FUNC soln(t) {B+exp(-A*t)}
*.FUNC source(t) {B+exp(-A*t)-A*R*C*exp(-A*t)}

*.FUNC soln(t) {B+exp(A*t)}
*.FUNC source(t) {B+exp(A*t)+A*R*C*exp(A*t)}

c1 1 0 {C} IC={soln(0.0)}
R1 1 2 {R}
B1 2 0 V={source(TIME)}
.print tran v(1)
.tran 0 1ms 
.options timeint reltol=1e-8 abstol=1e-8
*.options timeint method=8 newlte=1 newbpstepping=1 reltol=1e-4
.end
*COMP v(1) reltol=1e-7 abstol=1e-7
