Test Circuit for Mutually Coupled Inductors
******************************************************************************
* Tier No.: 1
* Directory/Circuit Name:  MINDUCTORS/MINDUCTORS.cir
* Description: Test of  mutually coupled inductors using coupling coefficent 
* value of k=0.75.
*
* Input: VS = V(1)
* Output: I(VS), V(2), V(3)
*
* Analysis:
*       The circuit contains two coupled inductors, L1=1mH and L2=1mH, that form a
*       transformer.   The primary side of the transformer is connected to resistor 
*       R1 and the secondary is connected to resistor R2. The input signal, 
*       VS=V(1),  is a 60Hz sinusoidal waveform with a peak  voltage amplitude of 
*       169.7 V.  The rms value and radian frequency of the input signal are 
*       calculated as follows:
*
*       V(1)rms = 0.707 * 169.7 = 119.98 V
*       w = 2*pi*frequency = 2 * 3.14159 * 60 Hz = 376.99 rads/s
*
*       A voltage is induced across L2 from the current in L1. Using a coupling 
*       coefficent of k=0.75, the following calculations yield the current 
*       through the primary L1, I(VS), and the voltage across the primary and 
*       secondary inductors, V(2) and V(3), respectively:
*
*       I1 = I(VS) = VS /  SQRT (R1**2 + XL1**2)
*       where,
*       XL1 = inductive reactance of L1 = 2*pi*frequency*L1= 376.99 * 1mH = 0.377 Ohms
*       Therefore,
*       I1 = 119.98 / SQRT (1000**2 + 0.377**2) = 0.1199 A rms
*           = 0.1199/0.707 =                      169.6 mA peak
*       V(2) = I * XL1 = 0.1199 * 0.377 =         0.0452 V rms
*               =  0.0452/0.707=                  63.9 mV peak
*       V(3) = k * V(2) = 0.75 * 0.0452 =         0.0339 V rms
*               = 0.0339 * 0.707=                 47.9 mV rms
******************************************************************************
VS 1 0 SIN(0 169.7 60HZ)
R1 1 2 1K
R2 3 0 1K
L1 2 0 1mH IC=0.50
L2 3 0 1mH 
K1 L1 L2 0.75
.TRAN 100US 25MS

* Xyce option needed when default is changed to 1 (Backward Euler).
* Also serves as useful test of non-default method.
*.OPTIONS TIMEINT METHOD=2

* Note. The two voltage signals are offset by 0.2 to avoid crossing
* the zero axis.  Axis crossings cause problems for xyce_verify.
.PRINT TRAN I(VS) {V(2)+0.2} {V(3)+0.2} i(L1) i(L2)

*COMP V(2) reltol=0.02
*COMP V(3) reltol=0.02
.END

